US06365671B1
A 4-necked 5-liter flask, equipped with a mechanical stirrer, a thermometer, and a condenser, is charged with methanol (800 g). Potassium hydroxide (440 g) is added in portions to the methanol solution. After the addition, the solution is cooled to 20° C. To this stirring solution, 1,1,1-trichloro-2,2-bis(4-hydroxyphenyl)ethane (420 g) is added in portions. The reaction temperature is kept below 40° C. After the addition, the temperature is raised to 50° C. and maintained for 2.5 hours. The reaction mixture is cooled to 20° C. and neutralized with 25% HCl solution. After the neutralization, the mixture is heated to reflux and water (480 g) is added. The mixture is allowed to cool to the room temperature. The precipitates are filtered and dried to afford 1,1-dichloro-2,2-bis(4-hydroxyphenyl)ethene as white solids with slight tan color.

reactant | methanol | 800 g | CO | CH4O
reactant | Potassium hydroxide | 440 g | [OH-].[K+]
reactant | 1,1,1-trichloro-2,2-bis(4-hydroxyphenyl)ethane | 420 g | ClC(C(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)(Cl)Cl | C14H11Cl3O2
reactant | HCl | Cl | ClH
solvent | water | 480 g | O | H2O
product | 1,1-dichloro-2,2-bis(4-hydroxyphenyl)ethene | ClC(=C(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)Cl | C14H10Cl2O2
